US05342846
6,8-Difluoro-1-(4-fluorophenyl)-7-[3-(1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
A suspension of ethyl 6,8-difluoro-1-(4-fluorophenyl)-7-[3-(1,2,3-triazol-1-yl)-pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylate (180 mg, 0.37 mmol) in 20 ml NaOH solution (containing 15 mg NaOH) and THF (20 ml) was heated at 90° C. for 3.5 h. The THF was evaporated and the separated solid was redissolved in water layer by heating and acidified to pH 6.0. The precipitate was filtered, washed with water and dried in vac-oven at 40° C., gave the title compound as a light yellow solid. Yield: 89 mg, 52.7%; m.p. 303° C. 1H NMR (TFA) δ: 2.82 (m, 2H), 4.14-4.64 (m, 4H), 5.74 (m, 1H), 7.37 (m, 2H), 7.60 (m, 2H), 8.20 (dd, 1H), 8.54 (d, 1H), 8.65 (d, 1H), 9.03 (s, 1H).

reactant | ethyl 6,8-difluoro-1-(4-fluorophenyl)-7-[3-(1,2,3-triazol-1-yl)-pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylate | 0.37 mmol, 180 mg | FC=1C=C2C(C(=CN(C2=C(C1N1CC(CC1)N1N=NC=C1)F)C1=CC=C(C=C1)F)C(=O)OCC)=O | C24H20F3N5O3
solvent | NaOH | 20 ml, 15 mg | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6,8-Difluoro-1-(4-fluorophenyl)-7-[3-(1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | FC=1C=C2C(C(=CN(C2=C(C1N1CC(CC1)N1N=NC=C1)F)C1=CC=C(C=C1)F)C(=O)O)=O | C22H16F3N5O3
